subckt oa32_x1 A1 A2 B1 B2 C X VDD VSS
OA32N30_PA0 (pmid1 A1 VDD VDD) pmos w=2u l=100n
OA32N30_PB0 (pmid2 A2 pmid1 VDD) pmos w=2u l=100n
OA32N30_PC0 (oa32_or3_n B1 pmid2 VDD) pmos w=2u l=100n
OA32N30_NA0 (oa32_or3_n A1 VSS VSS) nmos w=1u l=100n
OA32N30_NB0 (oa32_or3_n A2 VSS VSS) nmos w=1u l=100n
OA32N30_NC0 (oa32_or3_n B1 VSS VSS) nmos w=1u l=100n
OA32I30_P0 (oa32_or3 oa32_or3_n VDD VDD) pmos w=2u l=100n
OA32I30_N0 (oa32_or3 oa32_or3_n VSS VSS) nmos w=1u l=100n
OA32N20_PA0 (pmid_OA32N20_0 B2 VDD VDD) pmos w=2u l=100n
OA32N20_PB0 (oa32_or2_n C pmid_OA32N20_0 VDD) pmos w=2u l=100n
OA32N20_NA0 (oa32_or2_n B2 VSS VSS) nmos w=1u l=100n
OA32N20_NB0 (oa32_or2_n C VSS VSS) nmos w=1u l=100n
OA32I20_P0 (oa32_or2 oa32_or2_n VDD VDD) pmos w=2u l=100n
OA32I20_N0 (oa32_or2 oa32_or2_n VSS VSS) nmos w=1u l=100n
OA32AND0_PA0 (oa32_and_n oa32_or3 VDD VDD) pmos w=2u l=100n
OA32AND0_PB0 (oa32_and_n oa32_or2 VDD VDD) pmos w=2u l=100n
OA32AND0_NB0 (oa32_and_n oa32_or2 nmid_OA32AND0_0 VSS) nmos w=1u l=100n
OA32AND0_NA0 (nmid_OA32AND0_0 oa32_or3 VSS VSS) nmos w=1u l=100n
OA32O0_P0 (X oa32_and_n VDD VDD) pmos w=2u l=100n
OA32O0_N0 (X oa32_and_n VSS VSS) nmos w=1u l=100n
ends oa32_x1
